US09056834B2
N,3-dimethoxy-N-methylcyclobutanecarboxamide
Dichloromethane (20 mL) was added to the vial containing 3-methoxycyclobutanecarboxylic acid (1:1 isomers, 1500 mg, 11.53 mmol), N-methoxymethanamine.HCl (1514 mg, 15.53 mmol) and HATU (6570 mg, 17.3 mmol). Hunig's base (8.03 mL, 46.1 mmol) was then added. The mixture was stirred at room temperature overnight. The mixture was diluted with H2O and extracted with EtOAc three times. Insoluble solids were observed in the aqueous layer. The combined organic layers were washed with brined, dried over Na2SO4 and concentrated. The crude was dissolved in EtOAc and loaded to the column and purified by CombiFlash (40 g silica gel, EtOAc/heptane: 0→50%), leading to less polar diastereomer A and slightly more polar diastereomer B. Diastereomer A: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.09-2.25 (m, 2H) 2.43-2.57 (m, 2H) 3.17 (s, 3H) 3.23 (s, 3H) 3.43 (m, 1H) 3.63 (s, 3H) 3.98-4.09 (m, 1H). GCMS: observed 173 for C8H15NO3.

reactant | 3-methoxycyclobutanecarboxylic acid | 11.53 mmol, 1500 mg | COC1CC(C1)C(=O)O | C6H10O3
reactant | N-methoxymethanamine | CONC | C2H7NO
reactant | HCl | 15.53 mmol, 1514 mg | Cl | ClH
reactant | HATU | 17.3 mmol, 6570 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 46.1 mmol, 8.03 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | H2O | O | H2O
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N,3-dimethoxy-N-methylcyclobutanecarboxamide | CON(C(=O)C1CC(C1)OC)C | C8H15NO3
